US08426448B2
Preparation 24: (±)-4-[5-(3-Trifluoromethoxy-phenyl)-2-oxo-3-(4-cyano-phenylamino)-2,5-dihydro-pyrrol-1-yl]-benzonitrile
Add 3-(trifluoromethoxy)benzaldehyde (10.0 g, 52.6 mmol) to a solution of 4-aminobenzonitrile (18.6 g, 157.8 mmol) in glacial acetic acid (53 mL). Stir at ambient temperature for 20 min. and a precipitate forms. Add ethyl pyruvate (5.8 mL, 52.6 mmol). Stir at ambient temperature for 18 hours. Filter the precipitate and wash with glacial acetic acid and then with 1:1 hexanes-diethyl ether to afford the titled compound (12.8 g, 53%). LC-MS ESI m/z: 461 (M+H)+, 459 (M−1)−, Tr=3.05 min., method 2.

reactant | 3-(trifluoromethoxy)benzaldehyde | 52.6 mmol, 10.0 g | FC(OC=1C=C(C=O)C=CC1)(F)F | C8H5F3O2
reactant | 4-aminobenzonitrile | 157.8 mmol, 18.6 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | ethyl pyruvate | 52.6 mmol, 5.8 mL | C(C(=O)C)(=O)OCC | C5H8O3
solvent | acetic acid | 53 mL | C(C)(=O)O | C2H4O2
product | (±)-4-[5-(3-Trifluoromethoxy-phenyl)-2-oxo-3-(4-cyano-phenylamino)-2,5-dihydro-pyrrol-1-yl]-benzonitrile | 12.8 g, 53% | FC(OC=1C=C(C=CC1)C1C=C(C(N1C1=CC=C(C#N)C=C1)=O)NC1=CC=C(C=C1)C#N)(F)F | C25H15F3N4O2
